US06258954B1
To 301 g (2.26 mol) of AlCl3 in CH2Cl2 (750 ml) a mixture of 383 g (2.25 mol) of 4-phenoxybenzene and 205 g (1.50 mol) of ethyl chloroglyoxylate in CH2Cl2 (750 ml) is added dropwise at ice-bath temperature during one hour. Thereafter, the mixture is gradually warmed up to room temperature and stirred overnight. Then, the reaction mixture is poured onto ice. The aq. solution is acidified to pH 3 with aqueous HCl solution, followed by an extraction with CH2Cl2. The extract is dried over anhydrous MgSO4. The desired product is purified by silica gel column chromatography using CH2Cl2-hexane mixture as eluent. 338 g of colorless oily 4-phenoxyphenyl glyoxylic acid ethyl ester is obtained (83%).

reactant | AlCl3 | 2.26 mol, 301 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-phenoxybenzene | 2.25 mol, 383 g | O(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10O
reactant | ethyl chloroglyoxylate | 1.50 mol, 205 g | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 750 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 750 ml | C(Cl)Cl | CH2Cl2
product | 4-phenoxyphenyl glyoxylic acid ethyl ester | 338 g | C(C)OC(C(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C16H14O4
